US06329389B1
(3) (E)-3-[4-(4-methoxyphenyl)oxyphenyl]propenoic acid
Sodium hydride (60% dispersion in oil; 0.36 g) was added to an ethanol (30 ml) solution of ethyl diethylphosphonoacetate (1.4 g) at room temperature. The reaction mixture was stirred at room temperature for 10 minutes, to which was added 4-[(4-methoxyphenyl)oxy]benzenecarboaldehyde (1.2 g). The reaction mixture was stirred at room temperature for 2 hours, which was further stirred at 50° C. for 30 minutes. The reaction mixture was cooled, to which were added water (20 ml) and sodium hydroxide (0.5 g). The reaction mixture was stirred at room temperature for 2 hours, and concentrated. 2N Hydrochloric acid was added to the residue to become acidic, which was extracted with ethyl acetate. The organic layer was washed with water, then dried and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain the entitled compound (1.2 g).

reactant | Sodium hydride | 0.36 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 1.4 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 4-[(4-methoxyphenyl)oxy]benzenecarboaldehyde | 1.2 g | COC1=CC=C(C=C1)OC1=CC=C(C=C1)C=O | C14H12O3
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (E)-3-[4-(4-methoxyphenyl)oxyphenyl]propenoic acid | 1.2 g | COC1=CC=C(C=C1)OC1=CC=C(C=C1)/C=C/C(=O)O | C16H14O4
